US06063782
7-Benzyloxy-1-(2-fluoroethyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound was prepared as white crystals in 76.2% yield in a similar procedure to that described in Example 1 by using 7-chloro-1-(2-fluoroethyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine and benzyl alcohol.

reactant | 7-chloro-1-(2-fluoroethyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CCF | C10H11ClFN3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 7-Benzyloxy-1-(2-fluoroethyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 76.2% yield | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)CCF | C17H18FN3O
